US08975254B2
b) (R)-tert-Butyl 1-(3-(3-chloro-4-cyano-2-methylphenyl)-1H-pyrazol-1-yl)propan-2-ylcarbamate
2-chloro-3-methyl-4-(1H-pyrazol-3-yl)benzonitrile (0.5 g, 2.297 mmol) was dissolved in dry acetonitrile (5 ml) under nitrogen and cooled to 0° C. Sodium ethoxide (0.313 g, 4.59 mmol) was added and the reaction mixture was stirred for 25 min and allowed to warm up to RT. (R)-2-(tert-butoxycarbonylamino)propyl methanesulfonate (0.582 g, 2.297 mmol) was dissolved in 5 ml of dry acetonitrile and added dropwise to the reaction mixture. The reaction mixture was refluxed for 15 h and then the solvents were evaporated. The residue was taken into EtOAc, washed several times with saturated aqueous NaHCO3 and water, dried with Na2SO4 and evaporated to dryness. CombiFlash purification afforded 0.437 g of the title compound using heptane/EtOAc-system as an eluent. 1H-NMR (400 MHz; d6-DMSO): δ 1.02 (d, 3H), 1.31 (s, 9H), 2.57 (s, 3H), 3.91 (m, 1H), 4.13 (m, 2H), 6.62 (m, 1H), 6.87 (d, 1H), 7.66 (d, 1H), 7.78 (d, 1H), 7.83 (d, 1H).

reactant | 2-chloro-3-methyl-4-(1H-pyrazol-3-yl)benzonitrile | 2.297 mmol, 0.5 g | ClC1=C(C#N)C=CC(=C1C)C1=NNC=C1 | C11H8ClN3
reactant | Sodium ethoxide | 4.59 mmol, 0.313 g | [O-]CC.[Na+]
reactant | (R)-2-(tert-butoxycarbonylamino)propyl methanesulfonate | 2.297 mmol, 0.582 g | CS(=O)(=O)OC[C@@H](C)NC(=O)OC(C)(C)C | C9H19NO5S
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
product | (R)-tert-Butyl 1-(3-(3-chloro-4-cyano-2-methylphenyl)-1H-pyrazol-1-yl)propan-2-ylcarbamate | 0.437 g | ClC=1C(=C(C=CC1C#N)C1=NN(C=C1)C[C@@H](C)NC(OC(C)(C)C)=O)C | C19H23ClN4O2
